US08217213B2
A 41 wt % EMM-12 calcined of Example 3 and 59 wt % palladium-containing alumina catalyst of Example 4 was prepared. This catalyst was tested for benzene hydroalkylation to form cyclohexylbenzene.

reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | palladium | [Pd] | Pd
product | cyclohexylbenzene | C1(CCCCC1)C1=CC=CC=C1 | C12H16
